US06462075B1
3-Benzylidene-4-chromanone.
(66) To a solution of benzaldehyde (430 mg, 4.05 mmol) and 4-chromanone (500 mg, 3.37 mmol) in 8.4 ml of ethanol heated almost to boiling was added 1.7 ml of concentrated hydrochloric acid dropwise. After refluxing for 2 days, the solution was cooled overnight, and a precipitate formed. The precipitate was recrystallized from ethanol to afford 367 mg (46.1%) of white flakes: mp 111.8-113.4° C. (lit. mp 112° C., Powell, J. Am. Chem. Soc., 1923, 45, 2708-2711). 1H NMR (250 MHz) δ 8.06-8.02 (dd, 1H), 7.90 (s, 1H), 7.54-7.31 (m, 6H), 7.09 (t, 1H), 7.00-6.96 (d, 1H), 5.37 (s, 2H), 13C NMR (62.7 MHz) 182.4, 161.3, 137.7, 136.1, 134.6, 131.1, 130.2, 129.7, 128.9, 128.1, 122.1, 118.1, 67.8 ppm.

reactant | benzaldehyde | 4.05 mmol, 430 mg | C(C1=CC=CC=C1)=O | C7H6O
reactant | 4-chromanone | 3.37 mmol, 500 mg | O1CCC(C2=CC=CC=C12)=O | C9H8O2
reactant | hydrochloric acid | 1.7 ml | Cl | ClH
solvent | ethanol | 8.4 ml | C(C)O | C2H6O
product | 3-Benzylidene-4-chromanone | C(C1=CC=CC=C1)=C1COC2=CC=CC=C2C1=O | C16H12O2
